US05338739
To a solution of 2-(3-methoxyphenyl)pyrrolidine (3.5 g) in dry acetonitrile (60 ml) was added milled potassium carbonate (4.1 g), followed by iodoethane (1.3 ml) at ambient temperature, under nitrogen, with stirring for 7 hrs. The reaction mixture was filtered through a pad of celite and the filter cake was washed with ethyl acetate. The combined filtrates were concentrated and the residue was diluted with 48% hydrobromic acid (30 ml) and warmed at 100° C. for 3.5 hrs. Upon cooling to ambient temperature, the reaction mixture was neutralized with saturated sodium bicarbonate solution and the filtrate was extracted with dichloromethane (2 times). The combined organics were dried over anhydrous sodium sulfate, filtered, and concentrated. The residue was purified by flash column chromatography (silica gel, dichloromethane/0-10% methanol). The appropriate fractions were collected and concentrated to give 0.8 g (26%) of 3-[1-ethyl-2-pyrrolidinyl]phenol.

reactant | 2-(3-methoxyphenyl)pyrrolidine | 3.5 g | COC=1C=C(C=CC1)C1NCCC1 | C11H15NO
reactant | potassium carbonate | 4.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodoethane | 1.3 ml | ICC | C2H5I
solvent | acetonitrile | 60 ml | C(C)#N | C2H3N
product | 3-[1-ethyl-2-pyrrolidinyl]phenol | 0.8 g, 26% | C(C)N1C(CCC1)C=1C=C(C=CC1)O | C12H17NO
